US05698691
(3R,5S)-7-Chloro-5-(2-chlorophenyl)-3-(2-hydroxyethyl)-1-neopentyl-1,2,3,5-tetrahydro-4,1-benzoxazepine
To tetrahydrofuran (20 ml) were added (3R,5S)-7-Chloro-5-(2-chlorophenyl)-1-neopentyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetic acid (2 g) and aluminum lithium hydride (0.4 g). The mixture was heated for 6 hours under reflux, to which was added water. Insolubles were then filtered off. The filtrate was concentrated, which was purified by means of a silica gel column chromatography (hexane:acetic acid ethyl ester=2:1 v/v as an eluent) to give 1.65 g of non-crystalline solid matter.

reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | (3R,5S)-7-Chloro-5-(2-chlorophenyl)-1-neopentyl-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetic acid | 2 g | ClC=1C=CC2=C([C@H](O[C@@H](C(N2CC(C)(C)C)=O)CC(=O)O)C2=C(C=CC=C2)Cl)C1 | C22H23Cl2NO4
reactant | aluminum lithium hydride | 0.4 g | [H-].[Li+].[Al+3].[H-].[H-].[H-]
solvent | water | O | H2O
product | (3R,5S)-7-Chloro-5-(2-chlorophenyl)-3-(2-hydroxyethyl)-1-neopentyl-1,2,3,5-tetrahydro-4,1-benzoxazepine | 1.65 g | ClC=1C=CC2=C([C@H](O[C@@H](CN2CC(C)(C)C)CCO)C2=C(C=CC=C2)Cl)C1 | C22H27Cl2NO2
